US06960614B2
A 1L single necked round-bottomed flask equipped with a magnetic stirrer was charged with a solution of 5-chloro-2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid (59.6 g, 135 mmol) in dry tetrahydrofuran (300 mL). The solution was cooled to 0° C. in an ice-acetone bath. To this solution was added diisopropylethylamine (34.8 g, 270 mmol), (S)-O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (29.7 g, 202 mmol), 1-hydroxybenzotriazole (30.93 g, 202 mmol), and benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (BOP) (89.32 g, 202 mmol). After 30 minutes, the cooling bath was removed, and the reaction was stirred at ambient temperature for 18 hrs. The solvent was evaporated in vacuo, and the residue was dissolved in diethyl ether. The organic solution was washed with 10% aqueous sodium hydroxide (3×500 mL) and brine, and dried (MgSO4). The solution was concentrated to afford 5-chloro-2-(2-chloro-4-iodo-phenylamino)-N-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,4-difluoro-benzamide (69.9 g) as a pale yellow solid that was used directly in the next hydrolysis reaction.

reactant | 5-chloro-2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid | 135 mmol, 59.6 g | ClC=1C(=C(C(=C(C(=O)O)C1)NC1=C(C=C(C=C1)I)Cl)F)F | C13H6Cl2F2INO2
reactant | diisopropylethylamine | 270 mmol, 34.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 202 mmol, 29.7 g | CC1(OC[C@H](O1)CON)C | C6H13NO3
reactant | 1-hydroxybenzotriazole | 202 mmol, 30.93 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 202 mmol, 89.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-(2-chloro-4-iodo-phenylamino)-N-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,4-difluoro-benzamide | 69.9 g | ClC=1C(=C(C(=C(C(=O)NOC[C@H]2OC(OC2)(C)C)C1)NC1=C(C=C(C=C1)I)Cl)F)F | C19H17Cl2F2IN2O4
